US09446157B2
Synthesis of N-Fmoc-L-homoserine
L-homoserine (15 g, MW119.12, 0.126 mol) and NaHCO3 (22 g, MW84, 0.26 mol) were dissolved in water (600 mL). The solution was chilled in an ice bath, followed by addition of Fmoc-OSu (42.5 g, MW337.3, 0.126 mol) in acetone (400 mL). The mixture was stirred overnight. A mixture of ether/water (200 mL/200 mL) was added, and the solid was filtered off. The filtrate was separated and the aqueous phase was washed with ethyl twice (100 mL×2), followed by acidifying with 3N HClaq (about 100 mL) to pH3-4. The suspension was extracted with ether (200 mL×2). The combined organic phases were washed with brine once (100 mL) and dried over Na2SO4. After evaporation, white solid was obtained (weight: 38 g, yield: 88%).

reactant | L-homoserine | 0.126 mol, 15 g | N[C@@H](CCO)C(=O)O | C4H9NO3
reactant | NaHCO3 | 0.26 mol, 22 g | C(=O)(O)[O-].[Na+]
reactant | Fmoc-OSu | 0.126 mol, 42.5 g | C(=O)(OCC1C2=CC=CC=C2C2=CC=CC=C12)ON1C(=O)CCC1=O | C19H15NO5
reactant | ether water | 200 mL | CCOCC.O
solvent | water | 600 mL | O | H2O
solvent | acetone | 400 mL | CC(=O)C | C3H6O
product | N-Fmoc-L-homoserine | yield: 88% | C(=O)(OCC1C2=CC=CC=C2C2=CC=CC=C12)N[C@@H](CCO)C(=O)O | C19H19NO5
